### ISSUE TITLE
Forward reasoning failure in 4.17.0

### ISSUE THREAD

**Issue by BrunoDutertre** [leanprover-community/aesop#205]
On the following example, theorem `used_to_work` was proved by Aesop in 4.15.0 and 4.16.0.
The proof stopped working with 4.17.0.  This involves forward reasoning.

```lean
import Aesop

inductive Closure (r: α → α → Prop) : α → α → Prop where
  | rfl (x: α): Closure r x x
  | symm (x y: α): Closure r x y → Closure r y x
  | trans (x y z: α): Closure r x y → Closure r y z → Closure r x z
  | base (x y: α): r x y → Closure r x y

def neighbors (l: List (α × α)) (x y: α): Prop := (x, y) ∈ l ∨ (y, x) ∈ l

def connected (l: List (α × α)): α → α → Prop := Closure (neighbors l)

@[simp]
theorem connected_reflexive (l: List (α × α)) (x: α): connected l x x := Closure.rfl x

theorem connected_symmetric {l: List (α × α)} {x y: α} (h: connected l x y): connected l y x :=
  Closure.symm _ _ h

theorem connected_transitive {l: List (α × α)} {x y z: α} (h₁: connected l x y) (h₂: connected l y z): connected l x z :=
  Closure.trans _ _ _ h₁ h₂

theorem connected_base₁ {l: List (α × α)} {x y: α} (h: (x, y) ∈ l): connected l x y := by
  apply Closure.base
  simp [neighbors, h]

theorem connected_base₂ {l: List (α × α)} {x y: α} (h: (y, x) ∈ l): connected l x y := by
  apply Closure.base
  simp [neighbors, h]

theorem used_to_work {l: List (α × α)} {x y z t: α} (h: connected ((x, y) :: l) z t):
  connected l x z ∧ connected l y t ∨ connected l x t ∧ connected l y z ∨ connected l z t := by
    induction h
    all_goals
      aesop (add norm neighbors,
            unsafe forward [connected_symmetric, connected_transitive, connected_base₁, connected_base₂])
```

In 4.17.0, I'm getting this error:
```
aesop: maximum number of rule applications (200) reached. Set the 'maxRuleApplications' option to increase the limit.
```
but increasing the limit does not help.
